US07812047B2
a) rac-3-(Ethyl-phenyl-amino)-propane-1,2-diol
A mixture of N-ethylaniline (1.21 g, 10 mmol), glycidol (1.11 g, 15 mmol) and ethanol (1 ml) was heated by microwave irradiation for 10 min at 120° C. The mixture was dissolved in water (10 ml) and extracted with ethyl acetate (3 times 25 ml). The combined organic layers were dried over magnesium sulfate and evaporated. The residue was purified by chromatography (SiO2, ethyl acetate/heptane=1:2) to yield a colorless liquid (1.85 g, 94%); MS (ISP): 196.3 ((M+H)+).

reactant | N-ethylaniline | 10 mmol, 1.21 g | C(C)NC1=CC=CC=C1 | C8H11N
reactant | glycidol | 15 mmol, 1.11 g | C1C(O1)CO | C3H6O2
reactant | ethanol | 1 ml | C(C)O | C2H6O
solvent | water | 10 ml | O | H2O
product | rac-3-(Ethyl-phenyl-amino)-propane-1,2-diol | 1.85 g, 94% | C(C)N(CC(CO)O)C1=CC=CC=C1 | C11H17NO2
